US09193720B2
Palladium (II) acetate (6.61 mg, 0.029 mmol) was added to an argon-degassed solution of (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-(tert-butoxy)acetate (150 mg, 0.294 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (120 mg, 0.324 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (24.18 mg, 0.059 mmol) and potassium phosphate tribasic (469 mg, 2.208 mmol) in dioxane (2 ml) and water (0.4 ml) stirred for 16 h at 80° C. and stirred in a screw-capped pressure vessel. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-100% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)-phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetate 155 mg (82%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.41-7.38 (m, 2H), 7.22-7.21 (m, 1H), 7.15 (t, J=8.4 Hz, 2H), 7.02-6.98 (m, 3H), 5.92 (br. s, 1H), 4.96 (br. s, 1H), 4.23 (t, J=6.6 Hz, 2H), 3.42 (br. s, 2H), 3.07 (t, J=6.6 Hz, 2H), 2.60 (br. s, 2H), 2.46 (s, 3H), 2.06 (br. s, 1H), 2.04 (s, 3H), 1.88-1.70 (m, 2H), 1.62-1.52 (m, 2H), 1.19 (d, J=6.2 Hz, 3H), 1.13 (br. s, 12H). UPLC (M+H)=647.4.

reactant | (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-(tert-butoxy)acetate | 0.294 mmol, 150 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)C(F)(F)F | C22H32BrF3N2O3
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.324 mmol, 120 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.059 mmol, 24.18 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic | 2.208 mmol, 469 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.4 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Palladium (II) acetate | 0.029 mmol, 6.61 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)-phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetate | 155 mg, 82% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C(F)(F)F)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H44F4N2O4
